US07427632B2
3-Chloro-N-[1-(2-pyridinyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method A, 3-chloro-N-[1-(2-pyridinyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (170 mg, 0.41 mmol) and acetone (1.2 mL, 16.8 mmol) afforded 130 mg (70%) of the title compound.

reactant | 3-chloro-N-[1-(2-pyridinyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 0.41 mmol, 170 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=NC=CC=C1 | C22H25ClN4O2
reactant | acetone | 16.8 mmol, 1.2 mL | CC(=O)C | C3H6O
product | 3-Chloro-N-[1-(2-pyridinyl)-2-(1-isopropylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | 130 mg, 70% | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)C(C)C)C1=NC=CC=C1 | C25H31ClN4O2
